US05696299
Interesterification was carried out by using 3 g of Lipase QL, 50 g of (R,S)-2-octanol, and 150 g of tribehen under the same conditions as in Example 3 at 120° C. for a period of 22 hours. The water content of the reaction system was 0.03% by weight, and 91% of the lipase particles had a particle size of 20 to 40 μm. Gas chromatography of the reaction mixture revealed that 64 mol % of (R,S)-2-octanol had been converted to 2-octyl behenate. The reaction mixture was treated in the same manner as in Example 3 and subjected to simple distillation at 65° C. and 5 mmHg to give (S)-(+)-octanol (yield: 34%; chemical purity: 99.9%; optical purity: 98.2% ee). On the other hand, the residue, i.e., (R)-(-)-2-octyl behenate was alkali-hydrolyzed in the same manner as in Example 1 to obtain (R)-(-)-2-octanol (yield: 85%; chemical purity: 99.6%; optical purity: 62% ee).

reactant | 2-octyl behenate | C(CCCCCCCCCCCCCCCCCCCCC)(=O)OC(C)CCCCCC | C30H60O2
solvent | water | O | H2O
product | (S)-(+)-octanol | yield: 34% | CCCCCC[C@H](C)O | C8H18O
